Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Febrile Neutropenia
 
Major Surgical or Invasive Procedure:
I&D of perianal abscess

 
History of Present Illness:
Mr. ___ is a ___ male with history of
intermediate-risk cytogenetics and favorable risk AML (normal
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission
after successful induction 7+3 chemotherapy who presented to
clinic C1D126 of HiDAC consolidation and admitted for febrile
neutropenia.

Patient presented to clinic for blood count check. He reports
feeling tired for the past few weeks. His labs were notable for
ANC 90, H/H 7.1/20.7, and Plt 16. He was transfused 1 unit PBRCs
and 1 unit platelets. 1 hour after receiving Tylenol
pre-medication for his platelets (developed hives on 2 most
recent platelet transfusions), his temp rose to 99.6 from 98.1.
He had blood and urine cultures. He was given cefepime 2g IV.
Decision was made to admit for febrile neutropenia.

On arrival to the floor, patient reports chills currently but no
fevers or chills at home. He denies headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, cough, hemoptysis, chest pain, palpitations, abdominal
pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.

REVIEW OF SYSTEMS: A complete 10-point review of systems was
performed and was negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: INITIAL BMBX  AML
- ___: Consented to  protocol ___:
- ___: INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2) (RHP: +NPM1, +IDH2,+ RAD21)
- ___: D+14 BMBx ablated, 
- ___: D+26 remission, NPM1 negative
- ___: C1D1 HIDAC

PAST MEDICAL HISTORY:
- AML, as above
 
Social History:
___
Family History:
Mother had lung cancer. Father had some type of
metastatic cancer extensively involving the bones. No history of
any hematologic disorders including leukemia or lymphoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS: Temp 99.1, BP 148/79, HR 85, RR 20, O2 sat 100% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII
intact. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

DISCHARGE PHYSICAL EXAM:
=========================
VS: 98.1 104 / 67 84 20 100 Ra  
GENERAL: Pleasant man, NAD, lying in bed comfortably.
HEENT: Anicteric, PERRL, OP clear.
CARDIAC: RRR, normal s1/s2, no murmurs, gallops, or rubs.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds.
RECTAL: clean incision site at perianal region at 11 o'clock
position with drainage
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3. Strength full throughout. Sensation to light touch
intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema. Nontender to
palpation. 
 
Pertinent Results:
ADMISSION LABS:
=================
___ 11:30AM BLOOD WBC-0.5* RBC-2.33* Hgb-7.1* Hct-20.7* 
MCV-89 MCH-30.5 MCHC-34.3 RDW-14.6 RDWSD-47.0* Plt Ct-16*
___ 11:30AM BLOOD Neuts-18* Bands-0 Lymphs-74* Monos-3* 
Eos-1 Baso-0 Atyps-4* ___ Myelos-0 AbsNeut-0.09* 
AbsLymp-0.39* AbsMono-0.02* AbsEos-0.01* AbsBaso-0.00*
___ 11:30AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 03:15PM BLOOD UreaN-10 Creat-0.8 Na-140 K-3.6 Cl-100 
HCO3-26 AnGap-14
___ 03:15PM BLOOD ALT-18 AST-13 AlkPhos-63 TotBili-0.6
___ 12:00AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.5*

DISCHARGE LABS:
=================
___ 12:00AM BLOOD WBC-3.6* RBC-2.90* Hgb-8.9* Hct-25.8* 
MCV-89 MCH-30.7 MCHC-34.5 RDW-14.5 RDWSD-46.0 Plt ___
___ 12:00AM BLOOD Neuts-29* Bands-1 ___ Monos-39* 
Eos-0 Baso-0 ___ Metas-3* Myelos-0 AbsNeut-1.08* 
AbsLymp-1.01* AbsMono-1.40* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Hypochr-1+* Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 12:00AM BLOOD Glucose-101* UreaN-7 Creat-0.7 Na-138 
K-4.2 Cl-100 HCO3-23 AnGap-15
___ 12:00AM BLOOD ALT-29 AST-19 LD(LDH)-191 AlkPhos-73 
TotBili-0.2
___ 12:00AM BLOOD Albumin-4.0 Calcium-8.7 Phos-4.1 Mg-2.1

MICROBIOLOGY:
================
___ 3:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 4:00 pm BLOOD CULTURE      PERIPHERAL. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:17 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 7:25 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 7:00 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 6:08 pm BLOOD CULTURE      Source: Line-PORT. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:37 pm BLOOD CULTURE      Source: Line-POC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING/RESULTS:
===================
CXR (___):
IMPRESSION:  
No focal consolidation. 

CXR (___):
IMPRESSION:  
No focal consolidation. 

CT ABD & PELVIS WITH CONTRAST (___):
IMPRESSION: 
1. Perianal fistula with a 2.1 x 1.5 cm abscess formation in the 
left gluteal cleft with the fistula entering the anus at 5 
o'clock position 
2. No other acute process in the abdomen or pelvis. 

CT CHEST W/ CONTRAST (___):
IMPRESSION:  
1.  No acute cardiopulmonary process. 
2.  Please see report performed on same day for detailed 
evaluation of the 
abdomen. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of 
intermediate-risk cytogenetics and favorable risk AML (normal 
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission 
after successful induction 7+3 chemotherapy who presented to 
clinic C1D16 of HiDAC consolidation and admitted for febrile 
neutropenia. Patient was found to have a perianal fistula and 
abscess on CT scan which was drained by colorectal surgery.

# Febrile Neutropenia
# Perianal abscess 
Patient with ANC 90 on admission who developed low grade temp of 
99.6 in clinic. Patient had previously received acetaminophen 
for pRBC and platelet transfusion. Remained afebrile until 
evening of ___ when spiked to ___ while on Cefepime. Broadened 
with vancomycin and respiked on ___ to 102.7. ID consulted and 
recommended transition Cefepime to meropenem as patient 
previously spiked on Cefepime during prior hospitalization. CT 
torso on ___ showed perianal fistula with a 2.1 x 1.5 cm 
abscess formation in the left gluteal cleft. Colorectal surgery 
was consulted and performed a bedside I&D. Per ID, patient was 
transitioned to po cipro/Flagyl. He will need to complete a 7 
day course of antibiotics (last day ___. He was continued on 
Voriconazole 200mg BID for Aspergillus prophylaxis. Neutropenia 
improved during hospitalization, with ANC of 1080 at discharge. 

# AML
Intermediate-risk cytogenetics and favorable risk AML (normal 
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission 
after successful induction 7+3 chemotherapy and is currently in 
C1 of HiDAC consolidation. He did not require any transfusions 
while in the hospital. His home ciprofloxacin was initially held 
as he was started on broad spectrum antibiotics and he was 
started back on ciprofloxacin at time of discharge to treat his 
perianal abscess. He was continued on Voriconazole for 
Aspergillus prophylaxis. He is scheduled to be seen in clinic on 
___. At discharge, he was C1D23 HiDAC consolidation. 

Transitional Issues:
[] Will need to determine if patient needs to continue 
ciprofloxacin for prophylaxis after completing course for 
perirectal abscess

CODE: Full Code (confirmed)
EMERGENCY CONTACT HCP: ___ (ex-wife/HCP) 
___
(home) ___ (cell)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
2. Vitamin D ___ UNIT PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Voriconazole 200 mg PO Q12H 

 
Discharge Medications:
1.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*18 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days  
3.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
RX *lorazepam 0.5 mg 1 tab by mouth every eight (8) hours Disp 
#*30 Tablet Refills:*0 
4.  Vitamin D ___ UNIT PO DAILY  
5.  Voriconazole 200 mg PO Q12H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Febrile Neutropenia
Perianal Abscess
Acute Myeloid Leukemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure to take care of you at ___. 

WHY WAS I HERE?
You were admitted to the hospital because you had a low grade 
fever after receiving a blood transfusion.

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL
- You continued to have fevers while in the hospital and was 
started on IV antibiotics.
- A CT scan of your abdomen showed that you had a perirectal 
fistula and abscess (small collection of pus)
- Surgery saw you and cut open the abscess to allow it to drain
- Your IV antibiotics were changed to oral antibiotics.

WHAT SHOULD I DO WHEN I GET HOME?
- You should continue to take your medications as prescribed, 
especially antibiotics
- You should follow up with Dr. ___ the surgeons as 
scheduled

We wish you the best!

Your ___ Care Team

 
Followup Instructions:
___